US07166648B2
25.7 g of 4-acetyl-5-oxohexanoic acid ethyl ester and 0.3 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were mixed, and 35 g of fumaric acid diethyl ester was added at room temperature over 40 minutes. After stirring for 24 hours, the amount of 1,8-diazabicyclo-[5.4.0]-undec-7-ene was doubled and stirring continued until conversion was complete. 0.5 g of acetic acid and 50 ml of diethyl ether were added, and the solution was extracted with an aqueous potassium carbonate solution and water. Fractional distillation of the dry organic layer yielded 25.6 g of 4,4-diacetyl-5-(ethoxycarbonyl)-heptanedioic acid diethyl ester (boiling point: 170° C./0.002 mbar; purity: 93%; colorless). Content of the active structural element C3O2: 18%.

reactant | 4-acetyl-5-oxohexanoic acid ethyl ester | 25.7 g | C(C)OC(CCC(C(C)=O)C(C)=O)=O | C10H16O4
reactant | fumaric acid diethyl ester | 35 g | C(C)OC(\C=C\C(=O)OCC)=O | C8H12O4
reactant | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetic acid | 0.5 g | C(C)(=O)O | C2H4O2
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 0.3 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4,4-diacetyl-5-(ethoxycarbonyl)-heptanedioic acid diethyl ester | 25.6 g | C(C)OC(CCC(C(CC(=O)OCC)C(=O)OCC)(C(C)=O)C(C)=O)=O | C18H28O8
